US07723368B2
Step 2) 2-amino-5-[4-(difluoromethoxy)phenyl]-5-(3-{[(2-furylmethyl)-amino]methyl}phenyl)-3-methyl-3,5-dihydro-4H-imidazol-4-one
A small vial (2 ml) was charged with 3-[2-amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde (110 mg, 306 μmol). To this was added furfurylamine (30 mg, 308 μmol) in methanol (1 ml). After stirring overnight at room temperature sodium borohydride (29 mg) was added, then after another 90 minutes 1N sodium hydroxide (1 ml) was added and the mixture extracted with diethyl ether. The ethereal layer was concentrated by rotary evaporation, diluted with methanol and re-concentrated (repeated three times). Finally the oily residue was redissolved in diethylether/hexanes and concentrated, twice then placed under vacuum to give a white foam 96 mg (71%) 1H NMR (400 MHz, DMSO-d6) δ ppm 2.94 (s, 3H) 3.56 (br. s., 4H) 6.15 (d, J=3.2 Hz, 1H) 6.68 (br. s., 1H) 6.34 (t, J=2.4 Hz, 1H) 6.64 (s, 2H) 7.06 (d, J=8.8 Hz, 2H) 7.13 (t, J=74.18 Hz, 1H) 7.15-7.28 (m, 3H) 7.37 (s, 1H) 7.43 (d, J=8.8 Hz 2H) 7.51 (t, J=1.4 Hz, 1H); MS (ES) m/z 439.2 [M−H]−

reactant | 3-[2-amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde | 306 μmol, 110 mg | NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C=1C=C(C=O)C=CC1)=O)C | C18H15F2N3O3
reactant | furfurylamine | 308 μmol, 30 mg | C(C1=CC=CO1)N | C5H7NO
reactant | sodium borohydride | 29 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 2-amino-5-[4-(difluoromethoxy)phenyl]-5-(3-{[(2-furylmethyl)-amino]methyl}phenyl)-3-methyl-3,5-dihydro-4H-imidazol-4-one | 96 mg, 71% | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)CNCC=1OC=CC1)C1=CC=C(C=C1)OC(F)F | C23H22F2N4O3
